US07148236B2
To a mixture of 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl trifluoromethanesulfonate (450 mg), 5-bromopyrimidine (187 mg), lithium chloride (150 mg) and tetrakis(triphenylphosphine) palladium (0) (68 mg) under nitrogen were added hexamethylditin (386 mg) and dioxane (15 ml). The mixture was heated under reflux overnight and then poured into a mixture of aqueous potassium fluoride (1.9 g in 13 ml water) and ethyl acetate (13 ml). This mixture was stirred vigorously for 2 hours, passed through a sintered funnel and the layers separated. The organic phase was washed with brine, dried (MgSO4), filtered and evaporated. The crude material was purified on an Isco CombiFlash device, followed by UV-guided LC to yield 8-methyl-3-{[4-(5-pyrimidinyl)phenyl]thio}-8-azabicyclo[3.2.1]octane (45 mg)

reactant | 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl trifluoromethanesulfonate | 450 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)SC1CC2CCC(C1)N2C)(F)F | C15H18F3NO3S2
reactant | 5-bromopyrimidine | 187 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | lithium chloride | 150 mg | [Cl-].[Li+]
reactant | hexamethylditin | 386 mg | C[Sn](C)C.C[Sn](C)C
reactant | potassium fluoride | 13 ml, 1.9 g | [F-].[K+]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 68 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 8-methyl-3-{[4-(5-pyrimidinyl)phenyl]thio}-8-azabicyclo[3.2.1]octane | 45 mg | CN1C2CC(CC1CC2)SC2=CC=C(C=C2)C=2C=NC=NC2 | C18H21N3S
